US08372840B2
iii) 1-(3-Amino-phenyl)-imidazolidin-2-one
A solution of [3-(2-oxo-imidazolidin-1-yl)-phenyl]-carbamic acid tert-butyl ester (0.88 g, 3.2 mmol) and trifluoroacetic acid (2 ml) in dichloromethane (10 ml) were stirred at room temperature for 5 hours. The reaction was quenched with sodium carbonate (20 ml) and extracted with dichloromethane (3×50 ml). The combined organics were dried (magnesium sulphate) and concentrated in vacuo (0.54 g, 96%). HPLC retention time 1 min. Mass spectrum (ES+) m/z 178 (M+H).

reactant | [3-(2-oxo-imidazolidin-1-yl)-phenyl]-carbamic acid tert-butyl ester | 3.2 mmol, 0.88 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)N1C(NCC1)=O)=O | C14H19N3O3
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(3-Amino-phenyl)-imidazolidin-2-one | NC=1C=C(C=CC1)N1C(NCC1)=O | C9H11N3O
